US05760259
6-Benzyloxyhexyl bromide was prepared from benzyl alcohol (4.75 g, 44 mmol) and 1,6-dibromohexane (9.76 g, 40 mmol) using the general procedure given above. Yield: 36%, bp 100°-105° C./torr: 1H-NMR: 1.2-1.9 (m, 8H), 3.37 (t, 4H), 4.46 (s, 2H), 7.28 (m, 5H).

reactant | benzyl alcohol | 44 mmol, 4.75 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,6-dibromohexane | 40 mmol, 9.76 g | BrCCCCCCBr | C6H12Br2
product | 6-Benzyloxyhexyl bromide | Yield: 36% | C(C1=CC=CC=C1)OCCCCCCBr | C13H19BrO
